US07071201B2
Example 1: Synthesis of 1-[1-(4-fluorophenyl)piperdine-4-yl]indoline
Triacetoxylated sodium borohydride (760 mg) was added to a mixture of indoline (300 mg), 1-(4-fluorophenyl)-4-piperidone (580 mg), acetic acid (650 mg) and dichloroethane (30 ml), and the mixture was stirred for 2 hr. The obtained reaction solution was mixed with ethyl acetate and a saturated aqueous solution of sodium bicarbonate and the layers were separated. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (470 mg) as white prismatic crystals (yield: 63%).

reactant | indoline | 300 mg | N1CCC2=CC=CC=C12 | C8H9N
reactant | 1-(4-fluorophenyl)-4-piperidone | 580 mg | FC1=CC=C(C=C1)N1CCC(CC1)=O | C11H12FNO
reactant | acetic acid | 650 mg | C(C)(=O)O | C2H4O2
reactant | dichloroethane | 30 ml | ClC(C)Cl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[1-(4-fluorophenyl)piperdine-4-yl]indoline | 470 mg, yield: 63% | FC1=CC=C(C=C1)N1CCC(CC1)N1CCC2=CC=CC=C12 | C19H21FN2
